US05097023
Ethereal silver perchloride (0.08M, 9.58 mL, 7.67 mmol) was added with stirring at -30° C. to a solution of methyl 2,3,6-tri-O-benzyl-α-D-glucopyranoside (2.592 g, 5.59 mmol), 2,3,6-tri-O-benzyl-1,4-dideoxy-4-acetyloxymethyl-D-gluco-pyranosyl chloride (3.661 g, 6.98 mmol) in ether (20 mL). The mixture was stirred 15 min at -30° C. and silver chloride precipitated. The mixture was filtered through a celite pad, the solids were washed with ether, the filtrate was concentrated under reduced pressure. The residue was dissolved in methylene chloride and the organic layer was washed successively with aqueous sodium thiosulfate and water. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to afford a foam. Flash chromatography on silica gel and elution with a graded mixture of hexane and ethyl acetate afforded mehyl 4-O-(2,3,6-tri-O-benzyl-4-deoxy-4-acetyloxymethyl-α-D-glucopyranosyl) -2,3,6-tri-O-benzyl-α-D-glucopyranoside (3.19 g, 60%) as a foam.

reactant | methyl 2,3,6-tri-O-benzyl-α-D-glucopyranoside | 5.59 mmol, 2.592 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1 | C28H32O6
reactant | ether | 20 mL | CCOCC | C4H10O
product | mehyl 4-O-(2,3,6-tri-O-benzyl-4-deoxy-4-acetyloxymethyl-α-D-glucopyranosyl) -2,3,6-tri-O-benzyl-α-D-glucopyranoside | 3.19 g, 60% | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)COC(C)=O)COCC1=CC=CC=C1)O[C@H]1[C@@H]([C@H]([C@@H](OC)O[C@@H]1COCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C58H64O12
